US05591862
According to the method described for Reference Example 45, 2-chloromethyl-5-methyl-4-phenyloxazole was allowed to react with p-hydroxybenzaldehyde to give 4-(5-methyl-4-phenyl-2-oxazolylmethoxy)benzaldehyde. Recrystallization from ethyl acetate--isopropyl ether gave colorless prisms, m.p.90°-91° C.

reactant | 2-chloromethyl-5-methyl-4-phenyloxazole | ClCC=1OC(=C(N1)C1=CC=CC=C1)C | C11H10ClNO
reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4-(5-methyl-4-phenyl-2-oxazolylmethoxy)benzaldehyde | CC1=C(N=C(O1)COC1=CC=C(C=O)C=C1)C1=CC=CC=C1 | C18H15NO3
